US06576656B1
(1) 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2-trifluoromethylphenyl)oxindole
To a solution of 2-bromobenzotrifluoride (0.3 mL, 2.23 mmol) in THF (1.5 mL) was added dropwise 1.53 N BuLi in hexane (1.45 mL, 2.22 mmol) over 10 min at −78° C. and the mixture was stirred for 10 min. The resulting solution (1.2 mL, 0.82 mmol) was then added dropwise to the cooled solution of 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin (352 mg, 0.8 mmol) in THF (4 mL) at −78° C. via a syringe. The mixture was allowed to warm to room temperature and stirred for 30 min. The reaction was quenched with aqueous NaHCO3. The mixture was extracted with ethyl acetate, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography with 50:1 to 40:1 chloroform/methanol to give the title compound (96.3 mg, 21%).

reactant | 2-bromobenzotrifluoride | 2.23 mmol, 0.3 mL | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | BuLi | 1.53 N | [Li]CCCC
reactant | hexane | 2.22 mmol, 1.45 mL | CCCCCC | C6H14
reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin | 0.8 mmol, 352 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=C(C=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2-trifluoromethylphenyl)oxindole | 96.3 mg, 21% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)(C1=C(C=CC=C1)C(F)(F)F)O)=O)CC | C22H21F6IN2O2
